US04021479
4-(4'-Bromo-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(4'-bromo-4-biphenylyl)-4-oxo-butyric acid. Yield: 70% of theory; m.p. 127° C. Melting point of the cyclohexylamine salt: 193° C.

reactant | 4-(4'-bromo-4-biphenylyl)-4-oxo-butyric acid | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H13BrO3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(4'-Bromo-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 70% | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCC(=O)O)O | C16H15BrO3
